US08377975B2
5.0 g of 2-ethyl-4-methoxy-3-methylbenzoic acid are refluxed with 0.5 ml of conc. sulfuric acid and 50 ml of methanol in a round-bottomed flask for 2 days. The solvent is distilled off, 100 ml of water are added to the residue, and the precipitated solid is filtered off with suction and dried, giving 5.2 g of methyl 2-ethyl-4-methoxy-3-methylbenzoate (quant); MS-FAB (M+H+)=209.1; Rf (polar method): 2.46 min.

reactant | 2-ethyl-4-methoxy-3-methylbenzoic acid | 5.0 g | C(C)C1=C(C(=O)O)C=CC(=C1C)OC | C11H14O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | methyl 2-ethyl-4-methoxy-3-methylbenzoate | 5.2 g | C(C)C1=C(C(=O)OC)C=CC(=C1C)OC | C12H16O3
